US09388189B2
2-((1S)-1-((5-(2-Fluoro-6-methoxyphenyl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one
(S)-2-(1-((5-Bromo-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (100 mg, 0.17 mmol) was treated with (2-fluoro-6-methoxyphenyl)boronic acid (137 mg, 0.81 mmol), sodium carbonate (86 mg, 0.81 mmols) and bis(triphenylphosphine)palladium(II) dichloride (24 mg, 0.03 mmol) according to the method described in Preparation 62. The residue was purified using SP1® Purification System (0% to 100%, dichloromethane-ethyl acetate) to give 50 mg (46% yield) of the title compound. Purity 87%.

reactant | (S)-2-(1-((5-Bromo-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.17 mmol, 100 mg | BrC1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C | C27H32BrN7O2Si
reactant | (2-fluoro-6-methoxyphenyl)boronic acid | 0.81 mmol, 137 mg | FC1=C(C(=CC=C1)OC)B(O)O | C7H8BFO3
reactant | sodium carbonate | 0.81 mmols, 86 mg | C([O-])([O-])=O.[Na+].[Na+]
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 0.03 mmol, 24 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-((1S)-1-((5-(2-Fluoro-6-methoxyphenyl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 50 mg, 46% yield | FC1=C(C(=CC=C1)OC)C1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C | C34H38FN7O3Si
